US06894042B2
Oxalyl chloride (0.1 ml, 1.15 mmol) is dissolved in CH2Cl2 (2 ml) in a dry flask under nitrogen and cooled to −78° C. DMSO (0.16 ml, 2.3 mmol) is added drop-wise, and the mixture stirred for 30 min, while maintaining the temperature. Methyl 2-(1-hydroxyethyl)-1-benzofuran-6-carboxylate (220 mg, 1.0 mmol) is dissolved in CH2Cl2 (2 ml) and added drop-wise to the mixture, and the solution stirred for 1 h at −78° C. TEA (0.69 ml, 5.0 mmol), is added drop-wise and the reaction is stirred for an additional 30 min. The reaction is then warmed to 0° C. and stirred for another 30 min. The reaction is washed with saturated NaHCO3 (40 ml), and the organics are dried (K2CO3), filtered, and concentrated to a yellow solid. The crude material is chromatographed over 25 g slurry-packed silica gel, eluting with 20% EtOAc/hexane. The appropriate fractions are collected and concentrated to afford 174 mg (80%) of methyl 2-acetyl-1-benzofuran-6-carboxylate as a pale yellow solid. HRMS (FAB) calcd for C12H10O4+H: 219.0657, found 219.0667 (M+H)+.

reactant | Oxalyl chloride | 1.15 mmol, 0.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.3 mmol, 0.16 ml | CS(=O)C | C2H6OS
reactant | Methyl 2-(1-hydroxyethyl)-1-benzofuran-6-carboxylate | 1.0 mmol, 220 mg | OC(C)C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C12H12O4
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-acetyl-1-benzofuran-6-carboxylate | 174 mg, 80% | C(C)(=O)C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C12H10O4
